US07772183B2
Prepared by way of method III using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 4-phenoxyphenyl isocyanate (111 mg, 0.53 mmol). The final trituration (diethyl ether/hexane) and filtration gave 52 mg (38%) of 18-(4-phenoxyphenylaminocabonyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 98.0% pure (HPLC), MS m/z 780 (M−H)−, HRMS: calcd. 799.3337 and found 799.3316 (M+NH4)+, mp 163-165° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(COCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C25H38N4O9S
reactant | 4-phenoxyphenyl isocyanate | 0.53 mmol, 111 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
product | 18-(4-phenoxyphenylaminocabonyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene | 52 mg, 38% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=O)OC1CN2C(C(COCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C38H47N5O11S
